US03950528
3-Amino-1-(2,4,5-trichlorobenzyl)-pyrazol-5-one ##SPC20##
54.7 g of β-amino-β-ethoxyacrylic acid ethyl ester and 2 g of p-toluenesulphonic acid were dissolved in 400 ml of ethanol. A solution of 77.6 g of 2,4,5-trichlorobenzylhydrazine in 200 ml of ethanol was added dropwise thereto, under nitrogen. After stirring for a further 2 hours, the mixture was left to stand overnight and the precipitate which had separated out was filtered off and dissolved in 2 N sodium hydroxide solution. The alkaline solution was repeatedly extracted with ether and subsequently slightly acidified with dilute acetic acid, whereupon the compound identified above precipitated. After recrystallisation from ethanol, this product melted at 195°-196°. 35 g (38%).

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 54.7 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,4,5-trichlorobenzylhydrazine | 77.6 g | ClC1=C(CNN)C=C(C(=C1)Cl)Cl | C7H7Cl3N2
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-Amino-1-(2,4,5-trichlorobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=C(C=C(C(=C1)Cl)Cl)Cl | C10H8Cl3N3O
